US07435837B2
Treatment of (±)-3-[2-(benzyloxy)-5-chloro-3-methoxyphenyl]-1,2-propanediol (32 g, 0.1 mol) with p-toluenesulfonyl chloride (21 g, 0.11 mol) in pyridine generally according to the procedure described for intermediate 3 provided (±)-3-[2-(benzyloxy)-5-chloro-3-methoxyphenyl]-2-hydroxypropyl 4-methylbenzenesulfonate. Treatment of the tosylate with palladium on carbon (2.32 g, 5 wt. %) generally according to the procedure described for Intermediate 4 afforded (±)-3-(5-chloro-2-hydroxy-3-methoxyphenyl)-2-hydroxypropyl 4-methylbenzenesulfonate. Treatment of the phenol with triphenylphosphine (23.6 g, 0.09 mol) and diisopropyl azodicarboxylate (18.2 g, 0.09 mol) generally according to the procedure described for Intermediate 5 afforded 28 g (76%) of (±)-(5-chloro-7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a pale yellow solid. mp 99-102° C.; Anal. calcd. for C17H17ClO5S: C, 55.36; H, 4.65. Found: C, 55.35; H, 4.62.

reactant | (±)-3-[2-(benzyloxy)-5-chloro-3-methoxyphenyl]-1,2-propanediol | 0.1 mol, 32 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)Cl)CC(CO)O | C17H19ClO4
reactant | p-toluenesulfonyl chloride | 0.11 mol, 21 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (±)-3-[2-(benzyloxy)-5-chloro-3-methoxyphenyl]-2-hydroxypropyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC1=C(C(=CC(=C1)Cl)OC)OCC1=CC=CC=C1)O | C24H25ClO6S
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | (±)-3-(5-chloro-2-hydroxy-3-methoxyphenyl)-2-hydroxypropyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC1=C(C(=CC(=C1)Cl)OC)O)O | C17H19ClO6S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 0.09 mol, 23.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.09 mol, 18.2 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | palladium on carbon | 2.32 g | [Pd] | Pd
product | (±)-(5-chloro-7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 28 g, 76% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2OC)Cl | C17H17ClO5S
